US07153861B2
Methyl 3-[3-(1-phenylmethanoyl)thioureido]thiophene-2carboxylate
Methyl-3-amino-2-thiophene carboxylate (30 g, 1 equiv) and benzoyl isothiocyanate (46 ml, 1.8 equiv) in acetone (250 ml) were heated to 65° C. for 30 minutes. After cooling the solution was concentrated and the resulting solid filtered off and dried (40.54 g). 1H-NMR (CDCl3) δ 3.98 (3H, s), 7.54 (4H, m), 7.94 (2H, m), 8.81 (1H, d), 9.15 (1H, br s); MS (APCI+) found (M+1)=321; C14H12N2O3S2 requires 320.

reactant | Methyl-3-amino-2-thiophene carboxylate | 30 g, 1 equiv | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | benzoyl isothiocyanate | 46 ml, 1.8 equiv | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | Methyl 3-[3-(1-phenylmethanoyl)thioureido]thiophene-2carboxylate | C1(=CC=CC=C1)C(=O)NC(NC1=C(SC=C1)C(=O)OC)=S | C14H12N2O3S2
